US07449475B2
N-{5-chloro-2-(oxiran-2-ylmethoxy)-4-[(triisopropylsilyl)oxy]phenyl}-cyclopentanecarboxamide
N-{5-chloro-2-hydroxy-4-[(triisopropylsilyl)oxy]phenyl}cyclopentanecarboxamide (140 mg, 0.3 mmol) was dissolved in 1,4-dioxane (20 mL). Caesium carbonate (170 mg, 0.5 mmol) was added, followed by (2S)-oxiran-2-y-methyl 3-nitrobenzenesulfonate (90 mg, 0.3 mmol). After stirring over night at room temperature the mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and concentrated. Purification by HPLC on C18 (Xterra, 5 um, 19×50 mm; acetonitrile/water 60/40 to 100/0 over 15 min) yielded 25 mg (17%) of the titled intermediate compound.

reactant | N-{5-chloro-2-hydroxy-4-[(triisopropylsilyl)oxy]phenyl}cyclopentanecarboxamide | 0.3 mmol, 140 mg | ClC=1C(=CC(=C(C1)NC(=O)C1CCCC1)O)O[Si](C(C)C)(C(C)C)C(C)C | C21H34ClNO3Si
reactant | Caesium carbonate | 0.5 mmol, 170 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (2S)-oxiran-2-y-methyl 3-nitrobenzenesulfonate | 0.3 mmol, 90 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1OC1 | C9H9NO6S
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-{5-chloro-2-(oxiran-2-ylmethoxy)-4-[(triisopropylsilyl)oxy]phenyl}-cyclopentanecarboxamide | 25 mg, 17% | ClC=1C(=CC(=C(C1)NC(=O)C1CCCC1)OCC1OC1)O[Si](C(C)C)(C(C)C)C(C)C | C24H38ClNO4Si
